US07612075B2
A. 4-(4-Chloroquinazoline-7-ylmethyl)-3-oxopiperazine-1-carboxylic acid tert-butyl ester.
To a solution of 3-oxopiperazine-1-carboxylic acid tert-butyl ester (3.93 g, 19.6 mmol) and 7-bromomethyl-4-chloroquinazoline, EXAMPLE 7, (5.0 g, 19.6 mmol) in 150 mL of THF and 15 mL of DMF at 0° C. is added a 60% dispersion in mineral oil of NaH (0.79 g, 19.6 mmol). The solution is stirred at 0° C. for 0.5 hours and then is allowed to warm to ambient temperature. After 4 hours, the solution is poured into a saturated solution of NH4Cl. The layers are separated and the organic layer is washed with H2O, and saturated NaCl, dried over MgSO4, filtered and concentrated. The title compound is obtained as a white solid (5.1 g, 13.4 mmol). MS (FAB) m/z 377, 379, (M+H), chlorine pattern.

reactant | 3-oxopiperazine-1-carboxylic acid tert-butyl ester | 19.6 mmol, 3.93 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | 7-bromomethyl-4-chloroquinazoline | BrCC1=CC=C2C(=NC=NC2=C1)Cl | C9H6BrClN2
reactant | NaH | 19.6 mmol, 0.79 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Chloroquinazoline-7-ylmethyl)-3-oxopiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1=CC=C2C(=NC=NC2=C1)Cl)=O | C18H21ClN4O3
